US04920130
A suspension of (13.29 mmol) of 4-(2-quinolinylmethyloxy)benzyl triphenylphosphonium chloride in 100 ml of dry DMF under positive nitrogen atmosphere is cooled to 0° C. and 0.50 g (20.77 mmol), of an 80% NaH in oil dispersion is added in small portions. The suspension is aged for 15 minutes at 0° C. followed by 45 minutes at room temperature to assure complete anion formation. The flask is cooled back to 0° C. and (13.29 mmol) of 4-hydroxybenzaldehyde in 20 ml of DMF is dropped in over a period of 15 minutes. The reaction is allowed to equilibrate to room temperature and stirred for 2 hours. The resultant mixture is poured into ice water and filtered. The precipitate is dissolved in CH2Cl2, dried, and concentrated in vacuo. The crude product is recrystallized from ether to give 4-(4-(2-quinolinylmethyloxy)styryl)phenol.

reactant | 4-(2-quinolinylmethyloxy)benzyl triphenylphosphonium chloride | 13.29 mmol | [Cl-].N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | NaH | [H-].[Na+]
reactant | 4-hydroxybenzaldehyde | 13.29 mmol | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-(4-(2-quinolinylmethyloxy)styryl)phenol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=CC2=CC=C(C=C2)O)C=C1 | C24H19NO2
